US05110964
0.67 g of sebacic acid, 1.0 ml of triethylamine and 2 ml of phosphorus oxychloride with 40 ml of methylene chloride were added and stirred at 0° C. for 30 minutes, and then 60 ml of pyrophosphoric acid and 6.0 g of ferrocene were added, and the resulting mixture was heat-refluxed. Subsequently, the same procedure as in Example 7 was conducted, to obtain a ferrocenoylnonanoic acid in an amount of 2.22 g and in a yield of 60.0%.

reactant | sebacic acid | 0.67 g | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyrophosphoric acid | 60 ml | P(=O)(O)(O)OP(=O)(O)O | H4O7P2
reactant | ferrocene | 6.0 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | ferrocenoylnonanoic acid | yield of 60.0% | [C-]1(C=CC=C1)C(=O)C(C(=O)O)CCCCCCC.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C15H21O3.C5H5.Fe/c1-2-3-4-5-6-11-13(15(17)18)14(16)12-9-7-8-10-12;1-2-4-5-3-1;/h7-10,13H,2-6,11H2,1H3,(H,17,18);1-5H;/q2*-1;+2
